US06538010B1
5-iodo-3-amino-2-chloropyridine (1.212 g, 4.76 mmol) and concentrated HCl (10 mL) were stirred at room temperature for ten minutes. Sodium nitrite (5.3 g, 76.8 mmol) was then slowly added followed by CuCl (4.0 g, 40.4 mmol). Stirring continued for 30 min. The mixture was poured into 1:1 NH4OH:H2O, extracted with ethyl acetate, dried over sodium sulfate, then concentrated. The crude residue was purified by flash chromatography using 95:5 hexane:ethyl acetate to yield 2,3-Dichloro-5-iodopyridine (913 mg, 70%) as a colorless solid.

reactant | 5-iodo-3-amino-2-chloropyridine | 4.76 mmol, 1.212 g | IC=1C=C(C(=NC1)Cl)N | C5H4ClIN2
reactant | Sodium nitrite | 76.8 mmol, 5.3 g | N(=O)[O-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
reactant | HCl | 10 mL | Cl | ClH
catalyst | CuCl | 40.4 mmol, 4.0 g | Cl[Cu]
product | 2,3-Dichloro-5-iodopyridine | 913 mg, 70% | ClC1=NC=C(C=C1Cl)I | C5H2Cl2IN
